US06774136B2
The reaction of 18.8 ml (0.216 mol) morpholine and 12.4 g (0.09 mol) 2-methoxybenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 5.3 ml (0.110 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 7.61 g (corresponding to 38% of the yield calculated by theory) 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride.

reactant | morpholine | 0.216 mol, 18.8 ml | N1CCOCC1 | C4H9NO
reactant | 2-methoxybenzaldehyde | 0.09 mol, 12.4 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | acetyl chloride | 0.110 mol, 5.3 ml | C(C)(=O)Cl | C2H3ClO
product | 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride | [Cl-].COC1=C(C=[N+]2CCOCC2)C=CC=C1 | InChI=1S/C12H16NO2.ClH/c1-14-12-5-3-2-4-11(12)10-13-6-8-15-9-7-13;/h2-5,10H,6-9H2,1H3;1H/q+1;/p-1
